US07732461B2
(a) Phenylmethyl (3R,4S)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-3-(methyloxy)-1-piperidinecarboxylate
Phenylmethyl (3R,4S)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-3-hydroxy-1-piperidinecarboxylate (for a synthesis, see WO2004058144, Example 5 (b) cis-4-tertbutoxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid benzyl ester, Enantiomer 1) (2.2 g, 6.28 mmol) in THF (12 ml) was treated with 50% sodium hydroxide solution (12 ml), benzyltriethylammonium chloride (0.04 g) and dimethyl sulphate (1.31 g, 10.43 mmol) and stirred at RT for 60 hours. Water (100 ml) was added and the product was extracted with ethyl acetate (150 ml). The organic phase was separated and dried. Filtration and evaporation to dryness gave the title compound (2.2 g).

reactant | Phenylmethyl (3R,4S)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-3-hydroxy-1-piperidinecarboxylate | CC(C)(C)OC(=O)N[C@@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)O | C18H26N2O5
reactant | cis-4-tertbutoxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OC(C)(C)C)O | C18H26N2O5
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | dimethyl sulphate | 10.43 mmol, 1.31 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | Water | 100 ml | O | H2O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
catalyst | benzyltriethylammonium chloride | 0.04 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | Phenylmethyl (3R,4S)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-3-(methyloxy)-1-piperidinecarboxylate | 2.2 g | CC(C)(C)OC(=O)N[C@@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)OC | C19H28N2O5
